US05654307
4-Methylthiopyrido[4,3-d]pyrimidine (160.4 mg, 0.902 mmol), and benzylamine (106.3 mg, 0.992 mmol) in EtOH (2 mL) are heated at 80° C. for 12 h, and then the solvent is removed under reduced pressure. The resulting solid is suspended in CH2Cl2, filtered, and the resulting solid is purified by preparative tlc on silica, eluting with 5% MeOH in CHCl3. Removal of the solvent under reduced pressure yields 4-benzylaminopyrido[4,3-d]pyrimidine (36 mg, 17%). 1H NMR (DMSO) δ 9.60 (1H, s), 9.37 (1H, t, J=5.8 Hz), 8.72 (1H, d, J=5.8 Hz), 8.57 (1H, s), 7.54 (1H, d, J=5.8 Hz), 7.37 (2H, d, J=7.0 Hz), 7.33 (2H, t, J=7.3 Hz), 7.25 (1H, t, J=7.2 Hz), 4.81 (2H, d, J=5.8 Hz).

reactant | 4-Methylthiopyrido[4,3-d]pyrimidine | 0.902 mmol, 160.4 mg | CSC=1C2=C(N=CN1)C=CN=C2 | C8H7N3S
reactant | benzylamine | 0.992 mmol, 106.3 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-benzylaminopyrido[4,3-d]pyrimidine | 36 mg, 17% | C(C1=CC=CC=C1)NC=1C2=C(N=CN1)C=CN=C2 | C14H12N4
